US07432270B2
(S)-2-[(6,7-Difluoroquinoxalin-2-ylamino)methyl]-piperidine
(S)-2-[(6,7-Difluoroquinoxalin-2-ylamino)methyl]-piperidine-1-carboxylic acid tert butyl ester (0.460 g) was dissolved in trifluoroacetic acid (10 ml) and stirred at room temperature for 3 hours. The solution was then evaporated and the residue chromatographed over silica gel, eluting with 0 to 10% (9:1 methanol-concentrated ammonia solution) in dichloromethane. The title compound was obtained as a pale yellow foam (0.286 g), MH+ 279.

reactant | (S)-2-[(6,7-Difluoroquinoxalin-2-ylamino)methyl]-piperidine-1-carboxylic acid tert butyl ester | 0.460 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CNC1=NC2=CC(=C(C=C2N=C1)F)F | C19H24F2N4O2
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-2-[(6,7-Difluoroquinoxalin-2-ylamino)methyl]-piperidine | FC=1C=C2N=CC(=NC2=CC1F)NC[C@H]1NCCCC1 | C14H16F2N4
